US04001426
To 11.0 g. (0.09 mol.) of salicylaldehyde in 30 ml. of dry methanol was added 5.1 g. (0.09 mol.) of potassium hydroxide dissolved in 50 ml. of methanol. The solution was refluxed for 10 minutes and 20.5 g. (0.09 mol.) of α-bromo-p-methoxyacetophenone dissolved in 50 ml. of warm methanol was added dropwise but rapidly over a 10 minute interval. The resulting solution was refluxed for one hour, then filtered and concentrated. The residue was dissolved in ether and the ether solution was washed with water. The aqueous washings were extracted twice with ether and the ethereal extracts were combined, reduced in volume, refluxed with decolorizing carbon, filtered, dried (MgSO4) and concentrated to give 2-(4'-methoxybenzoyl)benzofuran which was recrystallized from isopropanol, m.p. 93°-94°.

reactant | salicylaldehyde | 0.09 mol | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | potassium hydroxide | 0.09 mol | [OH-].[K+]
reactant | α-bromo-p-methoxyacetophenone | 0.09 mol | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
solvent | methanol | CO | CH4O
product | 2-(4'-methoxybenzoyl)benzofuran | COC1=CC=C(C(=O)C=2OC3=C(C2)C=CC=C3)C=C1 | C16H12O3
